US05298652
Sodium hydroxide hydrolysis of 5-(octadecyloxy)-2-(3-phenylpropoxy)benzoic acid methyl ester under conditions described in Example 60 gave 5-(octadecyloxy)-2-(3-phenylpropoxy)benzoic acid (84% yield, mp 68°-70°).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 5-(octadecyloxy)-2-(3-phenylpropoxy)benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCC1=CC=CC=C1)=O | C35H54O4
product | 5-(octadecyloxy)-2-(3-phenylpropoxy)benzoic acid | 84% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=CC(=C(C(=O)O)C1)OCCCC1=CC=CC=C1 | C34H52O4
